US09163020B2
See FIG. 23(c). 1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid (75 mg, 0.24 mmol) was taken in a thermal reactor. DCM (5 mL) was added to get a suspension. Added triethyl amine (0.067 mL, 0.48 mmol) followed by the addition of 1-Propanephosphonic acid cyclic anhydride (0.286 mL, 0.48 mmol). (R)-1-aminopropan-2-ol (36.1 mg, 0.48 mmol) was added and stirred at RT for ON. After completion of the reaction, reaction mixture was concentrated and dissolved in DCM:MeOH. This crude compound was subjected for reverse phase purification to obtain (R)—N-(2-hydroxypropyl)-1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxamide (35.0 mg, 39.5%) as a off-white solid. ES+MS m/z: 370 (M+I). 1H NMR (300 MHz, DMSO-d6) δ ppm 1.10 (d, J=5.84 Hz, 3 H ) 2.24 (s, 3 H ) 2.39 (s, 3 H ) 3.16-3.29 (m, 1 H ) 3.37-3.48 (m, 1 H ) 3.77 (br. s., 1H ) 3.93 (s, 3 H ) 4.85 (d, J=4.33 Hz, 1 H ) 5.63 (s, 2 H ) 7.74 (s, 1 H ) 8.12 (s, 1 H ) 8.33 (s, 1 H ) 8.41 (s, 1 H ) 8.82 (br. s., 1 H ).

reactant | 1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid | 0.24 mmol, 75 mg | COC1=C(C(=NC=N1)CN1C=C(C2=NC=C(C=C21)C)C(=O)O)C | C16H16N4O3
reactant | triethyl amine | 0.48 mmol, 0.067 mL | C(C)N(CC)CC | C6H15N
reactant | 1-Propanephosphonic acid cyclic anhydride | 0.48 mmol, 0.286 mL | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
reactant | (R)-1-aminopropan-2-ol | 0.48 mmol, 36.1 mg | NC[C@@H](C)O | C3H9NO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(2-hydroxypropyl)-1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxamide | 35.0 mg, 39.5% | O[C@@H](CNC(=O)C1=CN(C=2C1=NC=C(C2)C)CC2=NC=NC(=C2C)OC)C | C19H23N5O3
